US04506001
Synthesis of 1,4-bis(N,N-dimethoxycarbonylmethylamino)methylbenzene
To a solution of α,α'-dichloro-p-xylene (87.5 g, 0.5 mol) in acetonitrile (300 ml) was added dimethyl iminodiacetate (328.7 g, 2.04 mols), and stirred at 65° to 70° C. for 8 hours. 250 ml of acetonitrile was added thereto, and crystals formed were removed by filtration, followed by concentrating the solution. After dissolving the residue in 600 ml of ethyl acetate, the solution was washed with water (400 ml×3), then concentrated. Recrystallization of the residue from a hexane-ethyl acetate mixture solvent gave the end product (170.0 g, 80%).

reactant | α,α'-dichloro-p-xylene | 0.5 mol, 87.5 g | ClCC1=CC=C(C=C1)CCl | C8H8Cl2
reactant | dimethyl iminodiacetate | 2.04 mols, 328.7 g | N(CC(=O)OC)CC(=O)OC | C6H11NO4
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 1,4-bis(N,N-dimethoxycarbonylmethylamino)methylbenzene | 170.0 g, 80% | COC(=O)CN(CC(=O)OC)CC1=CC=C(C=C1)CN(CC(=O)OC)CC(=O)OC | C20H28N2O8
